US07214802B2
To a 0° C. solution of 2.4 g (11.4 mmol) of 3-benzyloxy-2,2-dimethyl-propionic acid and 1.65 ml (11.5 mmol) of Et3N in 80 mL of chloroform was added 1.04 mL (11.5 mmol) of ethyl chloroformate. After stirring for 15 min, NH3 gas was passed through the solution for 5 minutes. The resulting suspension was removed from the ice bath and allowed to stir overnight. The suspension was filtered and the filtrate was concentrated to near dryness. The resulting residue was crystallized from benzene/hexanes (16 mL/40 mL) mixture to provide 2.3 g of 3-benzyloxy-2,2-dimethyl-propionamide.

reactant | 3-benzyloxy-2,2-dimethyl-propionic acid | 11.4 mmol, 2.4 g | C(C1=CC=CC=C1)OCC(C(=O)O)(C)C | C12H16O3
reactant | Et3N | 11.5 mmol, 1.65 ml | CCN(CC)CC | C6H15N
reactant | ethyl chloroformate | 11.5 mmol, 1.04 mL | ClC(=O)OCC | C3H5ClO2
reactant | NH3 | N | H3N
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-benzyloxy-2,2-dimethyl-propionamide | 2.3 g | C(C1=CC=CC=C1)OCC(C(=O)N)(C)C | C12H17NO2
